data/rdb19/train.csv
rxn,smiles,ea
3492,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:17]([O:18][C:19]=[C:20]([H:25])[H:26])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])=[C:5]([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8].[H:14][H:24],55.332786869083066
2984,[C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([C:19]([H:20])[H:21])[C:22](=[O:23])[O:24][H:31])([H:25])([H:26])[H:27].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]=[C:7]([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:19]([C:17]([C:16]([H:25])([H:26])[H:27])([C:18]([H:28])([H:29])[H:30])[C:22](=[O:23])[O:24][H:31])([H:20])[H:21],24.42489330662648
318,[C:4]([O:5][C:6](=[O:7])[C:8](=[C:9]([H:14])[H:15])[C:10]([H:16])([H:17])[H:18])([H:11])([H:12])[H:13].[O:1]([O:2])[H:3]>>[O:1]([O:2][C:9]([C:8]([C:6]([O:5][C:4]([H:11])([H:12])[H:13])=[O:7])[C:10]([H:16])([H:17])[H:18])([H:14])[H:15])[H:3],19.403636904258747
2431,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([O:12][C:13](=[O:14])[C:15]([H:25])([H:26])[H:27])[H:21])([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[C:8]([C:9]([C:10]([O:12][C:13](=[O:14])[C:15]([H:25])([H:26])[H:27])[H:21])([H:19])[H:20])([H:16])([H:17])[H:18].[H:5][C:11]([H:22])([H:23])[H:24],81.28673706471454
4987,[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7].[O:11][H:12]>>[C:1]([O:2][C:3](=[C:4][H:10])[H:8])([H:5])([H:6])[H:7].[H:9][O:11][H:12],11.023381354374578
2171,[C:11]([C:12]([C:13]([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N+:1]([C:2]([O-:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])([H:7])[C:13]([C:12]([C:11]([H:18])([H:19])[H:20])([H:21])[H:22])([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23],34.372195966832805
3767,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[H:11][C:18]([C:17]([H:23])([H:24])[H:25])([O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26],44.86883015598869
4599,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])[H:6])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:17]([C:18]([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12],71.36846447800053
2286,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([C:12]([H:25])([H:26])[H:27])[C:13](=[O:14])[O:15][C:16]([H:28])([H:29])[H:30])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:1]([C:2]([H:3])([H:4])[O:14][C:13]([C:10]([C:9]([C:8]([H:17])([H:18])[H:19])([H:20])[H:21])([C:11]([H:22])([H:23])[H:24])[C:12]([H:25])([H:26])[H:27])[O:15][C:16]([H:28])([H:29])[H:30])([H:5])([H:6])[H:7],34.74223672068911
5392,[C:17]([C:18]([C:19]([H:20])[H:21])([N:22]([C:23](=[O:24])[H:30])[H:29])[H:28])([H:25])([H:26])[H:27].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:17]([C:18](=[C:19]([H:20])[H:21])[N:22]([C:23](=[O:24])[H:30])[H:29])([H:25])([H:26])[H:27].[C:1](=[C:2]([C:3]1([H:28])[C:4]([H:12])[C:5]([H:13])=[C:6]([H:14])[C:7]([H:15])=[C:8]1[H:16])[H:11])([H:9])[H:10],41.0471314493916
968,[C:14]([C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:27])[H:28])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:19]([C:17]([O:16][C:15]([C:14]([H:21])([H:22])[H:23])([H:24])[H:25])=[O:18])([C:20]([H:27])[H:28])[H:26])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],14.630986222764475
3639,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17]([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])=[C:5]([H:6])[H:7])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28],85.96712415444199
